US08349849B2
(R)-2-Amino-2-(6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)quinazolin-2-yl)propan-1-ol
(R)-4-[6-(4-tert-Butyl-cyclohexyloxy)-5-trifluoromethyl-quinazolin-2-yl]-4-methyl-oxazolidin-2-one (180.0 mg, 0.0003987 mol) was dissolved in ethanol (7 mL, 0.1 mol), followed by 4 M lithium hydroxide in water (3 mL, 0.01 mol). The reaction mixture was then heated at 80° C. for 2 hours. All solvent was removed. The solid was extracted with DCM, and organic layers were dried over Na2SO4. Removal of solvent gave a pure product (152 mg, 90%). 1H NMR (MeOD) δ: 9.73 (s, 1H), 8.24 (d, J=9.3 Hz, 1H), 8.05 (d, J=9.5 Hz, 1H), 4.50-4.68 (m, 1H), 4.11 (d, J=11.0 Hz, 1H), 3.84 (d, J=11.0 Hz, 1H), 2.22 (d, J=10.8 Hz, 2H), 1.92 (d, J=13.1 Hz, 2H), 1.61 (s, 3H), 1.43-1.58 (m, 2H), 1.18-1.35 (m, 2H), 1.04-1.18 (m, 1H), 0.91 (s, 9H). MS (M+1): 426.30.

reactant | (R)-4-[6-(4-tert-Butyl-cyclohexyloxy)-5-trifluoromethyl-quinazolin-2-yl]-4-methyl-oxazolidin-2-one | 0.0003987 mol, 180.0 mg | C(C)(C)(C)C1CCC(CC1)OC=1C(=C2C=NC(=NC2=CC1)[C@]1(NC(OC1)=O)C)C(F)(F)F | C23H28F3N3O3
reactant | ethanol | 0.1 mol, 7 mL | C(C)O | C2H6O
reactant | lithium hydroxide | 4 M | [OH-].[Li+]
reactant | water | 0.01 mol, 3 mL | O | H2O
product | (R)-2-Amino-2-(6-(trans-4-tert-butylcyclohexyloxy)-5-(trifluoromethyl)quinazolin-2-yl)propan-1-ol | 152 mg, 90% | N[C@](CO)(C)C1=NC2=CC=C(C(=C2C=N1)C(F)(F)F)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C22H30F3N3O2
